### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/Action): add more limit properties of `Action V G` and `Action.forget V G`

### PR DESCRIPTION
**Pull request by chrisflav**
Adds instances on limit properties of `Action V G` and `Action.forget V G`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Action/Limits.lean [hunk 1]
```diff
@@ -40,6 +40,11 @@ instance [HasFiniteLimits V] : HasFiniteLimits (Action V G) where
 instance [HasLimits V] : HasLimits (Action V G) :=
   Adjunction.has_limits_of_equivalence (Action.functorCategoryEquivalence _ _).functor
 
+/-- If `V` has limits of shape `J`, so does `Action V G`.-/
+lemma hasLimitsOfShapeOfHasLimitsOfShape {J : Type w₁} [Category.{w₂} J] [HasLimitsOfShape J V] :
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/Action/Limits.lean:44]: I think this can be made an instance (with a slightly simpler name), and similarly for colimits:
```suggestion
instance hasLimitsOfShape {J : Type w₁} [Category.{w₂} J] [HasLimitsOfShape J V] :
```

File: Mathlib/RepresentationTheory/Action/Limits.lean [hunk 2]
```diff
@@ -137,6 +147,60 @@ def preservesColimitsOfSizeOfPreserves (F : C ⥤ Action V G)
...
+
+instance : ReflectsLimits (Action.forget V G) := by
+  constructor
+  intro _ _
+  constructor
+  intro _
+  constructor
+  intro _ h
+  apply isLimitOfReflects ((Action.functorCategoryEquivalence V G).functor)
+  exact evaluationJointlyReflectsLimits _ (fun _ => h)
```
Comment (joelriou) [inline Mathlib/RepresentationTheory/Action/Limits.lean:190]: We may achieve the same and at the same time get slightly more general (universe-wise) instances by doing like this (and the same can be done for colimits):
```suggestion
instance {J : Type w₁} [Category.{w₂} J] (F : J ⥤ Action V G) :
    ReflectsLimit F (Action.forget V G) where
  reflects h := by
    apply isLimitOfReflects ((Action.functorCategoryEquivalence V G).functor)
    exact evaluationJointlyReflectsLimits _ (fun _ => h)

instance {J : Type w₁} [Category.{w₂} J] : ReflectsLimitsOfShape J (Action.forget V G) where

instance : ReflectsLimits (Action.forget V G) where
```

**Review by joelriou — APPROVED** [review]
I have left some comments about small improvements.

File: Mathlib/RepresentationTheory/Action/Limits.lean (hunk 1 above)
Comment (chrisflav) [reply Mathlib/RepresentationTheory/Action/Limits.lean:44]: This was an instance originally (see the first commit in this PR), but it caused a instance synthesization timeout in `Mathlib.RepresentationTheory.FdRep` at `HasKernels (FdRep k G)` (see: https://github.com/leanprover-community/mathlib4/actions/runs/7468254528/job/20323323137). Bumping the maximum number of heartbeats there to 50000 fixed it, but I was not sure whether this is desirable. Maybe this can be circumvented by adding some more auxiliary instances in the `FdRep` file to make the instance search faster?

File: Mathlib/RepresentationTheory/Action/Limits.lean (hunk 2 above)
Comment (chrisflav) [reply Mathlib/RepresentationTheory/Action/Limits.lean:190]: Ah because `ReflectsLimits` only applies for small `J` right?

Comment (joelriou) [reply Mathlib/RepresentationTheory/Action/Limits.lean]: Yes.

File: Mathlib/RepresentationTheory/Action/Limits.lean (hunk 1 above)
Comment (joelriou) [reply Mathlib/RepresentationTheory/Action/Limits.lean]: I have tried to investigate this. I have just pushed this https://github.com/leanprover-community/mathlib4/pull/9603/commits/8c5c763932051fa37513b99c1c939f6b53785e6d which seems to fix the problem.

**Comment by joelriou** [comment]
Thanks!

bors merge
